US06855831B2
2.07 g (0.015 mol) of distilled 4-methylene-3-oxabicyclo[3.2.1]octan-2-one and 3.34 g (0.033 mol) of triethylamine are stirred for 2.5 hours at a temperature of 60° C. in 50 ml of acetonitrile in the presence of 98 mg (1.5 mmol) of potassium cyanide. Cooling to a temperature of 20° C. is then carried out and 2.35 g (0.11 mol) of 2-methyl-6-trifluoromethyl-nicotinoyl chloride, freshly prepared according to WO 00/15615, dissolved in a small amount of acetonitrile are added. The 2-methyl-6-trifluoromethylnicotinic acid 4-oxobicyclo[3.2.1]oct-2-en-2-yl ester (known from WO 00/15615) obtained in situ as intermediate is fully converted within a period of 3.5 hours (monitoring by thin-layer chromatography). The reaction mixture is then acidified with dilute hydrochloric acid and extracted with ethyl acetate against water at a pH value of 2, dried over Na2SO4 and concentrated by evaporation. The product is purified by means of column chromatography (eluant: ethyl acetate/hexane 4:1) to yield 3.16 g of 90% 4-hydroxy-3-(2-methyl-6-trifluoromethylpyridine-3-carbonyl)-bicyclo[3.2.1]oct-3-en-2-one (58.3% based on the 4-methylene-3-oxabicyclo[3.2.1]octan-2-one used or 83.3% based on the 2-methyl-6-trifluoromethylnicotinoyl chloride used).

reactant | 4-methylene-3-oxabicyclo[3.2.1]octan-2-one | 0.015 mol, 2.07 g | C=C1OC(C2CCC1C2)=O | C8H10O2
reactant | triethylamine | 0.033 mol, 3.34 g | C(C)N(CC)CC | C6H15N
reactant | potassium cyanide | 1.5 mmol, 98 mg | [C-]#N.[K+]
reactant | 2-methyl-6-trifluoromethyl-nicotinoyl chloride | 0.11 mol, 2.35 g | CC1=C(C(=O)Cl)C=CC(=N1)C(F)(F)F | C8H5ClF3NO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-methyl-6-trifluoromethylnicotinic acid 4-oxobicyclo[3.2.1]oct-2-en-2-yl ester | O=C1C=C(C2CCC1C2)OC(C2=C(N=C(C=C2)C(F)(F)F)C)=O | C16H14F3NO3
